*SPICE model for INA02170
*
.SUBCKT INA02170  OUT   IN   GND
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    11      0       .070PF
LT1     11      12      .224NH
C2T1    12      0       .070PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    14      0       .019PF
LT2     14      15      .034NH
C2T2    15      0       .019PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    13      0       .098PF
LT3     13      16      .312NH
C2T3    16      0       .098PF
* Bond wire inductance
LIN         12      DIEIN   .35NH
LOUT     16      DIEOUT  .35NH
LGND     15      DIEGND  .10NH
* Contact inductance
LL1     IN      11      .05NH
LL2     GND     14      .01NH
LL3     OUT     13      .05NH
*Parasitic capacitances
CCEB    12      15      .02PF
CCEC    15      DIEOUT  .01PF
CCBC    12      DIEOUT  .02PF
* INSERT DIE MODEL
XNA02DIE DIEOUT  DIEIN   DIEGND  INA02
.ENDS
*
.SUBCKT INA02   DIEOUT  DIEIN   DIEGND
RBIAS1   Q2E     14     155      
RBIAS2   Q3E     14      67      
RE2      Q3E     15      25      
RF1      DIEIN   14    1250      
RF2      Q1C   DIEOUT   475      
LP1      Q1E   DIEGND   0.20NH
LP2      15    DIEGND   0.20NH
CP1      Q1E   DIEGND   0.35PF
CP2      15    DIEGND   0.50PF
C3     DIEOUT  DIEGND   0.25PF
C4       Q1C   DIEGND   0.036PF
C5     DIEIN   DIEGND   0.086PF
C13      Q2E   DIEGND   0.023PF
C14      14    DIEGND   0.036PF
C16     Q3E    DIEGND   0.029PF
XNA02Q1  Q1C   DIEIN   Q1E   DIEGND    A02Q1
XNA02Q2  DIEOUT  Q1C   Q2E   DIEGND    A02Q2
XNA02Q3  DIEOUT  Q2E   Q3E   DIEGND    A02Q3
.ENDS
* Q1 distributed base model
.SUBCKT A02Q1   Q1C     Q1B     Q1E    Q1S
RC1      C1     5      8     
RC2       5     Q1C   17     
RB1     Q1B     7     1.8    
RB2       7     8     5.6    
RB3       8     B1    4.7    
RE       E1     Q1E   0.42   
Q1       C1     B1     E1      QINA    240
DCD1    Q1B     C1     DMOD    362
DCD2     7      C1     DMOD    389
DCD3     8      C1     DMOD    195
DCS      Q1S    5      DMOD    1683
.ENDS
* Q2 distributed base model
.SUBCKT A02Q2   Q2C     Q2B     Q2E    Q2S
RC1      C1     5      10    
RC2      5      Q2C    10    
RB1     Q2B     7      1.1   
RB2     7      8       3.2   
RB3     8      B1      2.7   
RE      E1      Q2E    0.24  
Q1      C1      B1     E1      QINA    420
DCD1    Q2B     C1     DMOD    572
DCD2     7      C1     DMOD    680
DCD3     8      C1     DMOD    340
DCS     Q2S     5      DMOD    2475
.ENDS
* Q3 distributed base model
.SUBCKT A02Q3   Q3C     Q3B     Q3E    Q3S
RC1      C1      5     9     
RC2      5      Q3C    7     
RB1     Q3B      7     1.2   
RB2      7       8     3.7   
RB3      8      B1     3.1   
RE      E1      Q3E    0.28  
Q1      C1      B1     E1      QINA    360
DCD1    Q3B     C1     DMOD    502
DCD2    7      C1     DMOD    583
DCD3    8      C1     DMOD    292
DCS     Q3S     5     DMOD2  2409
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.4E-16, VJ=.76, M=.53, BV=45)
.MODEL  DMOD2    D(IS=1E-25, CJO=1.2E-16, VJ=.80, M=.50, BV=45, RS=1.0E+06)
.MODEL  QINA    NPN (BF=100, BR=2.5, IS=1.7E-18, VA=20, TF=12PS,
+               CJE=2.4E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.3E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)